US06333324B1
A mixture of (2R)-4-[2-(acetylamino)ethanesulfonyl]-N-tert-butoxy-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-2-piperazinecarboxamide (130 mg) in anisole (1 ml), trifluoroacetic acid (1 ml) and H2O (0.02 ml) was stirred at ambient temperature overnight, and then at 50° C. for 5 hours. The mixture was concentrated in vacuo, and the residue was purified by SiO2 column chromatography, eluted with MeOH in CHCl3=2% then 5%. The fractions containing the desired product were combined and concentrated in vacuo. The residue was triturated with diisopropyl ether to give 88 mg of (2R)-4-[2-(acetylamino)ethanesulfonyl]-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-N-hydroxy-2-piperazinecarboxamide.

reactant | (2R)-4-[2-(acetylamino)ethanesulfonyl]-N-tert-butoxy-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-2-piperazinecarboxamide | 130 mg | C(C)(=O)NCCS(=O)(=O)N1C[C@@H](N(CC1)S(=O)(=O)C=1SC(=CC1)C1=CC=C(C=C1)F)C(=O)NOC(C)(C)C | C23H31FN4O7S3
solvent | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | H2O | 0.02 ml | O | H2O
product | (2R)-4-[2-(acetylamino)ethanesulfonyl]-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-N-hydroxy-2-piperazinecarboxamide | 88 mg | C(C)(=O)NCCS(=O)(=O)N1C[C@@H](N(CC1)S(=O)(=O)C=1SC(=CC1)C1=CC=C(C=C1)F)C(=O)NO | C19H23FN4O7S3
